US08981084B2
8-Hydroxyquinoline (14 mg) was added to a solution of 6-(4-(4-cyanobutanoyl)-3-methylpiperazin-1-yl)nicotinonitrile (0.9 g, 3.03 mmol) in ethanol (25 mL). Hydroxylamine hydrochloride (440 mg, 6.36 mmol) in water (4 mL), followed by sodium carbonate (510 mg, 4.81 mmol) in water (3 mL), were added to this solution and the reaction mixture was heated to reflux for 3 h. Ethanol was then removed under reduced pressure, and the product was extracted with EtOAc. The combined extracts were dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 5-(4-(5-cyanopyridin-2-yl)-2-methylpiperazin-1-yl)-N′-hydroxy-5-oxopentanimidamide (400 mg, crude), which was carried through without further purification. MS (ESI) m/z: Calculated for C16H22N6O2: 330.18. found: 331.1 (M+H)+

reactant | 6-(4-(4-cyanobutanoyl)-3-methylpiperazin-1-yl)nicotinonitrile | 3.03 mmol, 0.9 g | C(#N)CCCC(=O)N1C(CN(CC1)C1=NC=C(C#N)C=C1)C | C16H19N5O
reactant | Hydroxylamine hydrochloride | 6.36 mmol, 440 mg | Cl.NO
reactant | sodium carbonate | 4.81 mmol, 510 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
solvent | water | 3 mL | O | H2O
catalyst | 8-Hydroxyquinoline | 14 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
product | 5-(4-(5-cyanopyridin-2-yl)-2-methylpiperazin-1-yl)-N′-hydroxy-5-oxopentanimidamide | 400 mg | C(#N)C=1C=CC(=NC1)N1CC(N(CC1)C(CCCC(N)=NO)=O)C | C16H22N6O2
